US06444685B1
N-[2-Hydroxy-5-(1-hydroxy-2-{1-[4-(toluene-4-sulfonyl)-phenyl]-piperidin-4-ylamino}-ethyl)-phenyl]-methanesulfonamide
The title compound was prepared according to the procedure of Example 1 from 0.13 g (0.4 mmol) of Reference Example 25, 1-[4-(Toluene-4-sulfonyl)-phenyl]-piperidin-4-one, and 0.12 g (0.5 mmol) of (R)-N-[5-(2-amino-1-hydroxy-ethyl)-2-hydroxy-phenyl}-methanesulfonamide, yielding 0.18 g of a white solid; m.p. 115-118° C.; MS (ES) m/z 560.0 (MH+); HRMS (FAB) Calcd. for C27H34N3O6S2 (MH+): 560.1889, Found: 560.1886.

reactant | 1-[4-(Toluene-4-sulfonyl)-phenyl]-piperidin-4-one | C1(=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)=O)C | C18H19NO3S
reactant | (R)-N-[5-(2-amino-1-hydroxy-ethyl)-2-hydroxy-phenyl}-methanesulfonamide | 0.5 mmol, 0.12 g | NC[C@H](O)C=1C=CC(=C(C1)NS(=O)(=O)C)O | C9H14N2O4S
product | N-[2-Hydroxy-5-(1-hydroxy-2-{1-[4-(toluene-4-sulfonyl)-phenyl]-piperidin-4-ylamino}-ethyl)-phenyl]-methanesulfonamide | OC1=C(C=C(C=C1)C(CNC1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)C)O)NS(=O)(=O)C | C27H33N3O6S2
